US05436371
A solution containing 10 g of nitrobenzene, 1.27 g of tetramethylammonium hydroxide dihydrate and 1 g of benzonitrile was stirred at 60° C. with nitrogen bubbled into the solution via a syringe needle for 1 hour. Analysis of a sample of the reaction product by HPLC revealed N-(4-nitrophenyl)-benzamide was produced in 45% yield and azoxybenzene was generated in 22% yield based on tetramethylammonium hydroxide.

reactant | nitrobenzene | 10 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | tetramethylammonium hydroxide dihydrate | 1.27 g | O.O.[OH-].C[N+](C)(C)C
solvent | benzonitrile | 1 g | C(C1=CC=CC=C1)#N | C7H5N
product | azoxybenzene | 45% yield | [N+]([O-])(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2O
